US07709104B2
In a stream of nitrogen, 11.2 g (30 mmol) of 9-[N,N-bis(4-methylphenyl)amino]anthracene was dissolved in 100 ml of dioxane, and the whole was stirred at room temperature. Then, 1.68 g (30 mmol) of potassium hydroxide dissolved in 3 ml of water was added to the mixture dropwise. 5.75 g of bromine was added thereto, and the whole was stirred for 30 minutes. A 5% aqueous solution of sodium thiosulfate was added to the mixture, and the whole was stirred for 1 hour. The product was filtrated and washed with methanol. The product was recrystallized by using toluene, to thereby obtain 11.3 g of 9-[N,N-bis(4-methylphenyl)amino]-10-bromoanthracene.

reactant | 9-[N,N-bis(4-methylphenyl)amino]anthracene | 30 mmol, 11.2 g | CC1=CC=C(C=C1)N(C1=CC=C(C=C1)C)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C28H23N
reactant | potassium hydroxide | 30 mmol, 1.68 g | [OH-].[K+]
reactant | bromine | 5.75 g | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 3 ml | O | H2O
product | 9-[N,N-bis(4-methylphenyl)amino]-10-bromoanthracene | 11.3 g | CC1=CC=C(C=C1)N(C1=CC=C(C=C1)C)C=1C2=CC=CC=C2C(=C2C=CC=CC12)Br | C28H22BrN
